US04119635
EXAMPLE 39: 1-Methyl-5-(2dimethylaminomethylphenyl)-3-(3-chlorophenyl)-1,2,4-triazole.
To a solution of 4. g. of 1-methyl-3-(3-chlorophenyl)-5-(2-bromomethylphenyl)-1,2,4-triazole in 50 ml. of anhydrous benzene, 8.8 ml. of a benzene solution containing 20% of dimethylamine are added maintaining the temperature at about 5°-10° C. The mixture is maintained under stirring for 16 hours and then washed with 10% sodium hydroxide and with an aqueous solution of sodium chloride. The organic solution is dried over sodium sulfate and then evaporated. The crude product is purified by distillation at 175° C/0.07 mm Hg. Yield 86%.

reactant | 1-methyl-3-(3-chlorophenyl)-5-(2-bromomethylphenyl)-1,2,4-triazole | CN1N=C(N=C1C1=C(C=CC=C1)CBr)C1=CC(=CC=C1)Cl | C16H13BrClN3
reactant | dimethylamine | CNC | C2H7N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Methyl-5-(2dimethylaminomethylphenyl)-3-(3-chlorophenyl)-1,2,4-triazole | Yield 86% | CN1N=C(N=C1C1=C(C=CC=C1)CN(C)C)C1=CC(=CC=C1)Cl | C18H19ClN4
